US07423158B2
A solution of 0.405 gm (1.1 mmol) of 1-bromo-3-(3-fluoro-4-iodobutyl)-benzene in CH2Cl2 was treated with 0.82 mL (5.5 mmol) of DBU at room temperature, stirred at room temperature for 24 h and poured into EtOAc. The resultant organic phase was washed sequentially with water and brine, dried over Na2SO4 and concentrated under reduced pressure. Chromatography of the concentrate on silica gel with a gradient of hexanes to 7.0% EtOAc-hexanes gave 1-bromo-3-(3-fluorobut-3-enyl)benzene as an oil, 0.20 gm (80% yield); 1H NMR (400 MHz, CDCl3) δ: 2.45 (m, 2H), 2.78 (t, 2H, J=7.8 Hz), 3.29 (dd, 1H, J=2.8, 50.1 Hz), 4.50 (dd, 1H, J=2.8, 7.3 Hz), 7.12 (m, 2H), 7.32 (m, 2H).

reactant | 1-bromo-3-(3-fluoro-4-iodobutyl)-benzene | 1.1 mmol, 0.405 gm | BrC1=CC(=CC=C1)CCC(CI)F | C10H11BrFI
reactant | DBU | 5.5 mmol, 0.82 mL | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 1-bromo-3-(3-fluorobut-3-enyl)benzene | 80% yield | BrC1=CC(=CC=C1)CCC(=C)F | C10H10BrF
